*** MODEL DESCRIPTION ***
.model mod1 npn bf=150 
.model mod2 pnp bf=150 

*** NETLIST DESCRIPTION ***

V1 2 0 sin(0 1.00 1000.00 0 0)
R1 3 2 10000.0

Q1 6 3 5 mod1
R2 5 0 10000.0
R3 7 6 10000.0
V2 7 0 dc 5.00


*** MODEL DESCRIPTION ***
.tran 10m
